US06627651B1
Into a solution of tert-butyl 1-(2-aminoethyl)-4-piperidinylcarbamate (2.4 g) and tetrahydro-4H-pyran-4-one (0.79 g) in dichloroethane (35 ml) was added at room temperature sodium triacetoxyborohydride (2.19 g), and the resulting mixture was stirred for 2.5 hours. To the reaction mixture were added 37% formalin (0.65 g) and sodium triacetoxyborohydride (2.19 g), and the resulting mixture was stirred for 64 hours. The reaction mixture was mixed with an aqueous solution of sodium bicarbonate and was extracted with chloroform. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. The resulting organic layer was concentrated under reduced pressure to obtain tert-butyl 1-[2-[N-methyl-N-(tetrahydropyran-4-yl)amino]ethyl]-4-piperidinylcarbamate (2.72 g) as a yellow oil.

reactant | tert-butyl 1-(2-aminoethyl)-4-piperidinylcarbamate | 2.4 g | NCCN1CCC(CC1)NC(OC(C)(C)C)=O | C12H25N3O2
reactant | tetrahydro-4H-pyran-4-one | 0.79 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 2.19 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formalin | 0.65 g | C=O | CH2O
reactant | sodium triacetoxyborohydride | 2.19 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 35 ml | ClC(C)Cl | C2H4Cl2
product | tert-butyl 1-[2-[N-methyl-N-(tetrahydropyran-4-yl)amino]ethyl]-4-piperidinylcarbamate | 2.72 g | CN(C1CCOCC1)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C18H35N3O3
